US05965589
According to the same manner as that described in Example 13, (E)-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)-phenyl]-2-butenal was condensed with 2,4-thiazolidinedione, and then the resulting compound was subjected to catalytic hydrogenation to give 5-[3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]butyl]-2,4-thiazolidinedione (yield: 6%). This product was recrystallized from isopropyl ether. Pale yellow prisms, mp: 64-65° C.

reactant | (E)-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)-phenyl]-2-butenal | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)/C(=C/C=O)/C | C21H19NO3
reactant | 2,4-thiazolidinedione | S1C(NC(C1)=O)=O | C3H3NO2S
product | 5-[3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]butyl]-2,4-thiazolidinedione | yield: 6% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)C(CCC1C(NC(S1)=O)=O)C | C24H24N2O4S
